US06559162B2
N-{3-[2-(4-Cyanophenoxy)ethyl]-3-azabicyclo[3.2.1]oct-8-yl}-N′-ethyl-N-methylurea
A solution of ethyl isocyanate (0.8 mL, 9.66 mmol) in DCM (3 mL) was added dropwise, at 0° C., to a mixture of 4-{2-[8-(methylamino)-3-azabicyclo[3.2.1]oct-3-yl]ethoxy}benzonitrile (Preparation K; 2.5 g, 8.76 mmol) and MeCN (50 mL). The mixture was stirred at rt for 3 h, K2CO3 (2 g, 14.4 mmol) was added and the mixture was stirred for a further 2 h. Filtration and evaporation gave 2.96 g of crude product. This was purified twice by chromatography on silica gel, the first time eluting with a gradient of EtOAc:MeOH:ammoniacal methanol (10:1:0 to 10:0:1), and the second time eluting with DCM:MeOH:TEA (190:10:1). This gave 2.3 g (71.4%) of the title compound.

reactant | ethyl isocyanate | 9.66 mmol, 0.8 mL | C(C)N=C=O | C3H5NO
reactant | 4-{2-[8-(methylamino)-3-azabicyclo[3.2.1]oct-3-yl]ethoxy}benzonitrile | 8.76 mmol, 2.5 g | CNC1C2CN(CC1CC2)CCOC2=CC=C(C#N)C=C2 | C17H23N3O
reactant | MeCN | 50 mL | CC#N | C2H3N
reactant | K2CO3 | 14.4 mmol, 2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-{3-[2-(4-Cyanophenoxy)ethyl]-3-azabicyclo[3.2.1]oct-8-yl}-N′-ethyl-N-methylurea | 2.96 g | C(#N)C1=CC=C(OCCN2CC3CCC(C2)C3N(C(=O)NCC)C)C=C1 | C20H28N4O2
